US07368578B2
To a solution of 3-methoxy-4-[(1-methyl-4-phenyl-1H-imidazol-2-yl)methoxy]benzaldehyde (1.37 g) in tetrahydrofuran (50 mL)-ethanol (10 mL) was gradually added sodium borohydride (0.16 g) at room temperature, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture and the precipitated crystals were collected by filtration to give {3-methoxy-4-[(1-methyl-4-phenyl-1H-imidazol-2-yl)methoxy]phenyl}methanol as colorless crystals (1.15 g, yield 85%). Recrystallization from ethyl acetate-hexane gave colorless needle crystals. melting point: 126-127° C.

reactant | 3-methoxy-4-[(1-methyl-4-phenyl-1H-imidazol-2-yl)methoxy]benzaldehyde | 1.37 g | COC=1C=C(C=O)C=CC1OCC=1N(C=C(N1)C1=CC=CC=C1)C | C19H18N2O3
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.16 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | {3-methoxy-4-[(1-methyl-4-phenyl-1H-imidazol-2-yl)methoxy]phenyl}methanol | 1.15 g, yield 85% | COC=1C=C(C=CC1OCC=1N(C=C(N1)C1=CC=CC=C1)C)CO | C19H20N2O3
